US05273997
1,2-Methylenedioxy-4-nitrobenzene (8.3 g, 0.05 mol) was dissolved in tetrahydrofuran (150 ml) with rhodium on carbon catalyst (0.2 g) at 0° C. and was treated dropwise with hydrazine hydrate (2.8 g, 0.055 mol). On completion of the addition, the mixture was stirred for 1 hour and then filtered through a HYFLO (Trade Mark) filter. The resulting solution was added dropwise to a chilled, stirred solution of iron (III) chloride hexahydrate (27.5 g, 0.1 mol) in water (150 ml). On completion of the addition, water (220 ml) was added and the green precipitate was filtered off, washed with water and dried overnight under high vacuum. 1,2-Methylenedioxy-4-nitrosobenzene was obtained as a green solid (3.7 g, 50% yield) by column chromatography eluting on silica with dichloromethane. M.p. 90°-92° C. M+ (CI):152 (M+ +H)

reactant | 1,2-Methylenedioxy-4-nitrobenzene | 0.05 mol, 8.3 g | C1OC2=C(C=C(C=C2)[N+](=O)[O-])O1 | C7H5NO4
reactant | hydrazine hydrate | 0.055 mol, 2.8 g | O.NN
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | rhodium on carbon | 0.2 g | [Rh] | Rh
solvent | water | 150 ml | O | H2O
catalyst | iron (III) chloride hexahydrate | 0.1 mol, 27.5 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | water | 220 ml | O | H2O
product | 1,2-Methylenedioxy-4-nitrosobenzene | C1OC2=C(C=C(C=C2)N=O)O1 | C7H5NO3
